US04460596
7.5 g of N-[(3-thienylcarbonyl)methyl]amine hydrochloride, 10.0 g of sodium bicarbonate and 8.86 g of 3-chlorobenzoyl chloride are treated in the same manner as described in Preparation 1-(3). 11.0 g of N-(3-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine are thereby obtained.

reactant | N-[(3-thienylcarbonyl)methyl]amine hydrochloride | 7.5 g | Cl.S1C=C(C=C1)C(=O)CN
reactant | sodium bicarbonate | 10.0 g | C([O-])(O)=O.[Na+]
reactant | 3-chlorobenzoyl chloride | 8.86 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | N-(3-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine | 11.0 g, Yield: 93% | ClC=1C=C(C(=O)NCC(=O)C2=CSC=C2)C=CC1 | C13H10ClNO2S
